US06486190B1
To a solution of 1-t-butoxycarbonyl-2,4-dimethyl-5-nitrobenzimidazole (1.26 g, 4.32 mmol) in methanol (15 mL)/ethyl acetate (100 mL) are added 10% palladium-on-carbon (0.1 g) and ammonium formate (1.09 g, 17.3 mmol). The mixture is stirred at room temperature for 3 hours, then filtered on Celite with a methanol wash of the solids. The filtrate is rotary evaporated and the residue is purified by flash chromatography on silica gel, eluting with 20% ethyl acetate in hexane to afford 5-amino-1-t-butoxycarbonyl-2,4-dimethylbenzimidazole as a white solid.

reactant | 1-t-butoxycarbonyl-2,4-dimethyl-5-nitrobenzimidazole | 4.32 mmol, 1.26 g | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC(=C2C)[N+](=O)[O-])C | C14H17N3O4
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
reactant | ammonium formate | 17.3 mmol, 1.09 g | C(=O)[O-].[NH4+]
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium-on-carbon | 0.1 g | [Pd] | Pd
product | 5-amino-1-t-butoxycarbonyl-2,4-dimethylbenzimidazole | NC1=C(C2=C(N(C(=N2)C)C(=O)OC(C)(C)C)C=C1)C | C14H19N3O2
